US09259470B2
A suspension of 4-(2-fluoropyridin-4-yl)-2-(methylthio)pyrimidine (6.83 g, 30.9 mmol) in 2N HCl (100 mL) was heated to reflux for 2 hours. The reaction mixture was cooled to room temperature and placed in an ice bath. The pH was adjusted to about 7 with 2N NaOH (about 100 mL). The resulting solids were collected by filtration, washed with water and dried to give 4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one (5.07 g) as a solid. This material was placed in the thimble of a Soxhlet apparatus and was attached to a 1 L flask charged with ethyl acetate (500 mL). The material was continuously extracted for 3 days. The resulting white precipitate from the ethyl acetate layer was collected by filtration (3.3 grams, 49% yield). 1H NMR (400 MHz, (CD3)2SO) δ 11.85 (br, s, 1H), 8.75 (d, J=5.0 Hz, HA), 7.79 (d, J=5.0 Hz, 1H), 7.54 (d, J=7.0 Hz, 1H), 7.13 (s, 1H), 6.86 (d, J=7.0 Hz, 1H), 2.58 (s, 3H); m/z (APCI-pos) M+1=220.0.

reactant | 4-(2-fluoropyridin-4-yl)-2-(methylthio)pyrimidine | 30.9 mmol, 6.83 g | FC1=NC=CC(=C1)C1=NC(=NC=C1)SC | C10H8FN3S
reactant | NaOH | 2N, about 100 mL | [OH-].[Na+]
solvent | HCl | 2N, 100 mL | Cl | ClH
product | 4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one | 5.07 g, 49% yield | CSC1=NC=CC(=N1)C1=CC(NC=C1)=O | C10H9N3OS
